US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 10)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 79%). 1H NMR (300 MHz, CDCl3): δ 2.29 (s, 6H), 3.27 (s, 4H), 3.88 (s, 3H), 4.14 (s, 4H), 6.59 (s, 3H), 7.01-7.10 (s, 1H), 7.24-7.36 (m, 2H), 7.47-7.71 (m, 2H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 79% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C22H24FN5O2
